US07687627B2
(S)-N-{3-[4-(4-(Pyridin-3-ylamino)-3,3-dimethyl-4-cyanopiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide
By using procedure as described in Example 45 and by reacting (S)-N-{3-[3-fluoro-4-(4-oxo-3,3-dimethylpiperidin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide with sodium cyanide and 3-aminopyridine the compound was obtained in 48% yield.

reactant | (S)-N-{3-[3-fluoro-4-(4-oxo-3,3-dimethylpiperidin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | FC=1C=C(C=CC1N1CC(C(CC1)=O)(C)C)N1C(O[C@H](C1)CNC(C)=O)=O | C19H24FN3O4
reactant | sodium cyanide | [C-]#N.[Na+]
reactant | 3-aminopyridine | NC=1C=NC=CC1 | C5H6N2
product | (S)-N-{3-[4-(4-(Pyridin-3-ylamino)-3,3-dimethyl-4-cyanopiperidin-1-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 48% yield | N1=CC(=CC=C1)NC1(C(CN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CNC(C)=O)=O)F)(C)C)C#N | C25H29FN6O3
